US07034039B2
A solution of 6-bromo-4-butoxy-3-chloromethyl-2-cyclopropylmethyl-1(2H)-isoquinolinone (5.58 g, 14 mmol) and potassium phthalimide (3.89 g, 21 mmol) in N,N-dimethylformamide (50 mL) was stirred at room temperature for 5 h. The reaction mixture was poured into water and extracted with ethyl acetate. After washing the extract with water, the extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained crystals were recrystallized from tetrahydrofuran-n-hexane to give 2-[(6-bromo-4-butoxy-2-cyclopropylmethyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methyl]-1H-isoindole-1,3(2H)-dione (6.57 g, 94.7%) as crystals.

reactant | 6-bromo-4-butoxy-3-chloromethyl-2-cyclopropylmethyl-1(2H)-isoquinolinone | 14 mmol, 5.58 g | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1CC1)CCl)OCCCC | C18H21BrClNO2
reactant | potassium phthalimide | 21 mmol, 3.89 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2-[(6-bromo-4-butoxy-2-cyclopropylmethyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methyl]-1H-isoindole-1,3(2H)-dione | 6.57 g, 94.7% | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1CC1)CN1C(C2=CC=CC=C2C1=O)=O)OCCCC | C26H25BrN2O4
